US07786114B2
To a solution of 4.9 g of 2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde in 100 cm3 of methanol, at a temperature in the region of 20° C., is added 0.57 g of sodium borohydride. The reaction medium is stirred at room temperature for 3 hours. The reaction medium is concentrated under reduced pressure. The residue obtained is taken up in 100 cm3 of water and 100 cm3 of ethyl acetate. After separation of the phases by settling, the organic phase is dried over magnesium sulfate, filtered and then concentrated under reduced pressure. 4.92 g of [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]methanol are obtained with the following characteristics:

reactant | 2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde | 4.9 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC1=C(N=CC=C1C=O)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C25H22N4O5S
reactant | sodium borohydride | 0.57 g | [BH4-].[Na+]
solvent | methanol | 100 cm3 | CO | CH4O
solvent | water | 100 cm3 | O | H2O
solvent | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
product | [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]methanol | 4.92 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC=1C(=NC=CC1CO)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C25H24N4O5S
